US08114886B2
5-[(2,5-Difluorophenyl)[[6-(trifluoromethyl)pyridin-3-yl]thio]methyl]-N,N,4-trimethylpyridine-2-carboxamide
To a solution of 5-[(2,5-difluorophenyl)[[6-(trifluoromethyl)pyridin-3-yl]thio]methyl]-4-methylpyridine-2-carboxylic acid (352 mg, 0.80 mmol) in methylene chloride (10 ml), dimethylamine hydrochloride (73 mg, 0.88 mmol), 1-hydroxybenzotriazole (119 mg, 0.88 mmol) 4-methylmorpholine (0.194 ml, 1.76 mmol), and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (169 mg, 0.88 mmol) were added at room temperature. After stirring for 13 hours at room temperature, the reaction mixture was washed with 0.5 N hydrochloric acid. The organic layer was dried over anhydrous sodium sulfate and filtered, then the filtrate was concentrated under reduced pressure, and the resulting residue was subjected to flash silica gel chromatography. The fraction obtained from an elution with hexane:ethyl acetate=1:1 was concentrated under reduced pressure to obtain the title compound (370 mg, 0.79 mmol, 99%) as a colorless oily substance.

reactant | 5-[(2,5-difluorophenyl)[[6-(trifluoromethyl)pyridin-3-yl]thio]methyl]-4-methylpyridine-2-carboxylic acid | 0.80 mmol, 352 mg | FC1=C(C=C(C=C1)F)C(C=1C(=CC(=NC1)C(=O)O)C)SC=1C=NC(=CC1)C(F)(F)F | C20H13F5N2O2S
reactant | dimethylamine hydrochloride | 0.88 mmol, 73 mg | Cl.CNC
reactant | 1-hydroxybenzotriazole | 0.88 mmol, 0.194 ml, 119 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.88 mmol, 169 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 5-[(2,5-Difluorophenyl)[[6-(trifluoromethyl)pyridin-3-yl]thio]methyl]-N,N,4-trimethylpyridine-2-carboxamide | 0.79 mmol, 370 mg, 99% | FC1=C(C=C(C=C1)F)C(C=1C(=CC(=NC1)C(=O)N(C)C)C)SC=1C=NC(=CC1)C(F)(F)F | C22H18F5N3OS
